US04602027
1-Methylcyclohexylcarbonyl chloride (1.6 g) was added dropwise to a mixture of L-aspartic acid β-benzyl ester (2.23 g), dichloromethane (30 ml) and triethylamine (30 ml) with ice-cooling and stirring. The resulting mixture was stirred with ice-cooling for an hour, washed with 1N hydrochloric acid and water and dried over anhydrous magnesium sulfate. The solvent was then distilled off and the oily residue (3.2 g) was dissolved in dimethoxyethane (30 ml). Acetic anhydride (4 ml), pyridine (4.8 ml) and 4-dimethylaminopyridine (0.12 g) were added and the mixture was refluxed for 1.5 hours. Acetic acid (2 ml) was added and the whole mixture was refluxed for 2.5 hours. The solvent was distilled off and water was added. The mixture was extracted with ethyl acetate and the ethyl acetate layer was washed with diluted hydrochloric acid, water, aqueous sodium hydrogen carbonate and water in that order, and dried over anhydrous magnesium sulfate. The residue (2.0 g) was purified by chromatography on silica gel (40 g) [eluent: hexane-acetone (9:1)] to give benzyl 3-(1-methylcyclohexylcarbonylamino)-4-oxovalerate as an oil; yield 1.2 g (34.8%).

reactant | 1-Methylcyclohexylcarbonyl chloride | 1.6 g | CC1(CCCCC1)C(=O)Cl | C8H13ClO
reactant | L-aspartic acid β-benzyl ester | 2.23 g | C1=CC=C(C=C1)COC(=O)C[C@@H](C(=O)O)N | C11H13NO4
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
product | benzyl 3-(1-methylcyclohexylcarbonylamino)-4-oxovalerate | CC1(CCCCC1)C(=O)NC(CC(=O)OCC1=CC=CC=C1)C(C)=O | C20H27NO4
